US04160765
Similarly 2.71 g of N-benzyl-2-chloro-3,4-dimethoxy-phenethylamine and 2.33 g (0.015 mol) of o-bromostyrene oxide are reacted in methanol to give N-benzyl-N-[2-(2-chloro-3,4-dimethoxyphenyl)ethyl]-2-hydroxy-2-(2-bromophenyl)ethylamine. The latter is converted to its hydrochloride, which is dissolved in 90 ml of methanol and hydrogenated over 1 g of 10% palladium-on-carbon in 10 ml of ethyl acetate at room temprature for six hours. The reaction mixture is filtered and evaporated in vacuo to leve N-[2-(2-chloro-3,4-dimethoxyphenyl)ethyl]-2-hydroxy-2-(2-bromophenyl)ethylamine hydrochloride.

reactant | N-benzyl-2-chloro-3,4-dimethoxy-phenethylamine | 2.71 g | C(C1=CC=CC=C1)NCCC1=C(C(=C(C=C1)OC)OC)Cl | C17H20ClNO2
reactant | o-bromostyrene oxide | 0.015 mol, 2.33 g | BrC1=C(C2CO2)C=CC=C1 | C8H7BrO
solvent | methanol | CO | CH4O
product | N-benzyl-N-[2-(2-chloro-3,4-dimethoxyphenyl)ethyl]-2-hydroxy-2-(2-bromophenyl)ethylamine | C(C1=CC=CC=C1)N(CCC1=C(C(=C(C=C1)OC)OC)Cl)CC(C1=C(C=CC=C1)Br)O | C25H27BrClNO3
